US07592373B2
3-[5-(4-chlorophenyl)pyridin-2-yl]propynoic acid-[4-(4-hydroxypiperidin-1-ylmethyl)phenyl]amide
Prepared analogously to Example 2.3.f. from [5-(4-chlorophenyl)pyridin-2-yl]propynoic acid and 4-[4-(tert-butyldimethylsilanyloxy)piperidin-1-ylmethyl]phenylamine. The cleaving of the silyl group is carried out by adding tetrabutylammonium fluoride to a solution of the silylether in THF. Yield: 0.25 g (43% of theory); melting point: 186° C.-190° C.; C26H24ClN3O2 (M=445.94); calc.: molecular ion peak (M+H)+: 446/448; found: molecular ion peak (M+H)+: 446/448; Rf value: 0.6 (silica gel, dichloromethane/methanol/ammonia (90:10:0.1)).

reactant | [5-(4-chlorophenyl)pyridin-2-yl]propynoic acid | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC(=O)O | C14H8ClNO2
reactant | 4-[4-(tert-butyldimethylsilanyloxy)piperidin-1-ylmethyl]phenylamine | [Si](C)(C)(C(C)(C)C)OC1CCN(CC1)CC1=CC=C(C=C1)N | C18H32N2OSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | silylether | [SiH3]O[SiH3] | H6OSi2
reactant | dichloromethane methanol ammonia | ClCCl.CO.N
solvent | THF | C1CCOC1 | C4H8O
product | 3-[5-(4-chlorophenyl)pyridin-2-yl]propynoic acid-[4-(4-hydroxypiperidin-1-ylmethyl)phenyl]amide | OC1CCN(CC1)CC1=CC=C(C=C1)NC(C#CC1=NC=C(C=C1)C1=CC=C(C=C1)Cl)=O | C26H24ClN3O2
